US04996203
STEP 46A: trans-2-[3-(3-Hydroxypropylsulfonyl)-4-n-propoxy-5-benzyloxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran
834 mg of trans-2-[3-methylsulfonyl-4-n-propoxy-5-benzyloxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran dissolved in 8 ml of dry THF was cooled to -78° C. and to it was added 2 ml of n-butyllithium (1.6N solution in THF) in a nitrogen atmosphere. After 15 min. 140 mg of bromoethanol dissolved in 2 ml of THF was added to the reaction mixture. The yellow solution was warmed to room temperature and was quenched with a saturated NH4Cl solution. The title compound was obtained after workup and chromatography on silica gel: MS, m/z 600 M+ ; NMR (CDCl3, 200 MHz) δ 1.0 (t, OCH2CH2CH3), 1.82 (q, OCH2CH2CH3), 1.9-2.4(m, SO2CH2CH2CH2OH, H-4), 2.5(m, H-3), 3.58 (t, SO2CH2CH2CH2OH), 3.72(m, CH2OH), 3.86, 3.92(2s, 3 OCH3), 4.18 (t, OCH2CH2CH3), 5.18(s, OCH2Ar), 5.08-5.22 (m, H-2, H-5), 6.62(s, C5ArH), 7.28-7.54(m, ArH).

reactant | trans-2-[3-methylsulfonyl-4-n-propoxy-5-benzyloxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | 834 mg | CS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC1=CC=CC=C1)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C30H36O8S
reactant | n-butyllithium | 1.6N, 2 ml | C(CCC)[Li]
reactant | bromoethanol | 140 mg | BrC(C)O | C2H5BrO
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | trans-2-[3-(3-Hydroxypropylsulfonyl)-4-n-propoxy-5-benzyloxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | OCCCS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC1=CC=CC=C1)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C32H40O9S
